US04694066
A. 4-(4-Penteneoxy)-4'-nitrobiphenyl
To 400 ml ethanol is added 21.5 g of 4-hydroxy-4'-nitrobiphenyl, and the mixture heated to reflux. A solution of 7.1 g KOH in 30 ml of water is added dropwise at reflux temperatures. After complete addition, 18 g of 5-bromo-1-pentene is added and the reaction medium is heated at reflux temperature for about 15 hours. Ethanol is removed under vacuum from the cooled mixture, and the solid residue is slurried with water in a blender, filtered, washed with water, and air dried. The product then is recrystallized from 90/10 hexane/toluene, mp 74°-76° C.

reactant | ethanol | 400 ml | C(C)O | C2H6O
reactant | 4-hydroxy-4'-nitrobiphenyl | 21.5 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C12H9NO3
reactant | KOH | 7.1 g | [OH-].[K+]
reactant | 5-bromo-1-pentene | 18 g | BrCCCC=C | C5H9Br
solvent | water | 30 ml | O | H2O
product | 4-(4-Penteneoxy)-4'-nitrobiphenyl | C(CCC=C)OC1=CC=C(C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C17H17NO3
